US08183271B2
Methyl 4-[3-((E)-2-{2-[(4-tert-butylbenzyl)oxy]phenyl}vinyl)-7-(1H-tetrazol-5-yl)heptyl]benzoate
A solution of 200 mg (0.38 mmol) of methyl 4-[3-((E)-2-{2-[(4-tert-butylbenzyl)oxy]phenyl}vinyl)-7-cyanoheptyl)benzoate in 3 ml of toluene is mixed with 660 mg (5.73 mmol) of trimethylsilyl azide and 142.6 mg (0.57 mmol) of di-n-butyltin oxide and heated to 80° C. for 12 hours. After cooling to room temperature, the mixture is washed with saturated sodium bicarbonate solution. The organic phase is separated off, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the filtrate is concentrated to dryness. The resulting crude product is purified by chromatography on a silica gel column (mobile phase: cyclohexane/ethyl acetate 1:1). 103 mg (0.18 mmol, 46% of theory) of a white foam are obtained.

reactant | methyl 4-[3-((E)-2-{2-[(4-tert-butylbenzyl)oxy]phenyl}vinyl)-7-cyanoheptyl)benzoate | 0.38 mmol, 200 mg | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCC2=CC=C(C(=O)OC)C=C2)CCCCC#N)C=C1 | C35H41NO3
reactant | trimethylsilyl azide | 5.73 mmol, 660 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.57 mmol, 142.6 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-[3-((E)-2-{2-[(4-tert-butylbenzyl)oxy]phenyl}vinyl)-7-(1H-tetrazol-5-yl)heptyl]benzoate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCC2=CC=C(C(=O)OC)C=C2)CCCCC2=NN=NN2)C=C1 | C35H42N4O3
